US06528525B1
(c) Ethyl 2-(4-benzyloxybenzyl)-2-methyl-5-phenylvalerate
A solution of n-butyllithium in hexane (1.65M, 19.4 ml) was added dropwise over a period of 20 minutes at −60° C. to a solution of diisopropylamine (3.23 g) in anhydrous tetrahydrofuran (60 ml). The mixture was stirred at 0° C. for 30 minutes. To this mixture a solution of 2-methyl-5-phenylvalerate (7.05 g) in anhydrous tetrahydrofuran (30 ml) was added dropwise over a period of 20 minutes at −70° C. and the mixture was stirred at −70° C. for 40 minutes. To this reaction mixture a solution of 4-benzyloxybenzyl chloride (9.68 g) in anhydrous tetrahydrofuran (80 ml) was added dropwise at −70° C. The mixture was stirred at −70° C. for 3 hours. At the end of this time the reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=15/1 as the eluant to afford the desired compound (1.88 g) as a syrup.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 3.23 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-methyl-5-phenylvalerate | 7.05 g | CC(C(=O)[O-])CCCC1=CC=CC=C1
reactant | 4-benzyloxybenzyl chloride | 9.68 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | hexane | 1.65M, 19.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(4-benzyloxybenzyl)-2-methyl-5-phenylvalerate | 1.88 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(CCCC2=CC=CC=C2)C)C=C1 | C28H32O3
